US08709994B2
In a 2 L three-necked round-bottom flask equipped with a mechanical stirrer and a reflux condenser were introduced a solution of 3-(3-methylcyclohexyl)propan-1-ol (23.3 g, 0.15 mol) in dichloromethane (140 mL), a solution of potassium bromide (1.77 g, 15 mmol, 0.1 eq) in water (25 mL) and 2,2,6,6-tetramethyl-1-piperidinyloxy (TEMPO, 300 mg, 1.92 mmol, 0.01 eq). To this mixture was added 0.35M aqueous sodium hypochlorite (594 mL). The mixture was stirred for 3 days at 35° C. then extracted with dichloromethane (500 mL). The organic layer was washed with water (300 mL), 1N HCl (300 mL) and brine (300 mL), dried over sodium sulphate and concentrated. The crude product was chromatographed on silica gel with 8% EtOAc in hexane as elution agent, followed by a bulb-to-bulb distillation (0.01 mBar, 79° C.) to give pure 3-(3-methylcyclohexyl)propanal (11.8 g, gc purity>98%; yield=51%).

reactant | 3-(3-methylcyclohexyl)propan-1-ol | 0.15 mol, 23.3 g | CC1CC(CCC1)CCCO | C10H20O
reactant | potassium bromide | 15 mmol, 1.77 g, 0.1 eq | [Br-].[K+]
reactant | sodium hypochlorite | 0.35M, 594 mL | Cl[O-].[Na+]
solvent | dichloromethane | 140 mL | ClCCl | CH2Cl2
solvent | water | 25 mL | O | H2O
product | 3-(3-methylcyclohexyl)propanal | 11.8 g, yield=51% | CC1CC(CCC1)CCC=O | C10H18O
